US06992094B1
Ethyl 4-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate
In a manner similar to that of Example 51, by reaction of 370 mg (0.86 mmol) of ethyl 4-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)benzoate with 408 mg (1.72 mmol) of methyl 8-bromooctanoate and 238 mg of potassium carbonate in MEK (10 ml), 502 mg (99%) of a yellow oil are obtained.

reactant | ethyl 4-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)benzoate | 0.86 mmol, 370 mg | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C23H28O3Se
reactant | methyl 8-bromooctanoate | 1.72 mmol, 408 mg | BrCCCCCCCC(=O)OC | C9H17BrO2
reactant | potassium carbonate | 238 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MEK | 10 ml | CCC(=O)C | C4H8O
product | Ethyl 4-[3-(7-methoxycarbonylheptyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]benzoate | COC(=O)CCCCCCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=CC=C(C(=O)OCC)C=C1 | C32H44O5Se
